US06063734
Potassium carbonate (1.53 g) was added to an acetonitrile (10 mL) solution of 3-(2,6-difluorophenyl)-pyrazole (1 g) and allyl 2-bromoacetate (1.49 g), and refluxed for 3 hours. The resulting product was extracted with acetate and diluted hydrochloric acid added thereto at room temperature. The organic layer was dried over anhydrous magnesium sulfate and concentrated, and the resulting concentrate was purified through silica gel column chromatography (chloroform) to obtain allyl 2-{3-(2,6-difluorophenyl)pyrazol-1-yl}acetate (1.5 g).

reactant | Potassium carbonate | 1.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2,6-difluorophenyl)-pyrazole | 1 g | FC1=C(C(=CC=C1)F)C1=NNC=C1 | C9H6F2N2
reactant | allyl 2-bromoacetate | 1.49 g | BrCC(=O)OCC=C | C5H7BrO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | allyl 2-{3-(2,6-difluorophenyl)pyrazol-1-yl}acetate | 1.5 g | FC1=C(C(=CC=C1)F)C1=NN(C=C1)CC(=O)OCC=C | C14H12F2N2O2
